US06632826B1
A mechanically stirred solution of 4-tert-butoxycarbonylamino-3-oxo-5-phenyl-pentanoic acid ethyl ester (115 g, 0.343 mol) in ethanol (450 ml) at 0° C. under nitrogen was treated portionwise with sodium borohydride (4.43 g, 0,117 mol) over 30 minutes, producing a thick slurry. The reaction mixture was quenched by the dropwise addition of glacial acetic acid (26 ml) at 0° C. under nitrogen. The slurry was then poured onto a mixture of dichloromethane (400 ml) and a 1M aqueous hydrogen chloride solution (400 ml) in a separating funnel. The organic layer was removed and the aqueous solution extracted with dichloromethane (180 ml). The combined organic solutions were washed sequentially with water (200 ml), 5% aqueous sodium hydrogen carbonate solution (200 ml) and brine (200 ml, and dried (anhydrous magnesium sulfate). The solvents were removed in vacuo to give an off-white solid which was recrystallised from methylcyclohexane/ethyl acetate providing 4-tert-butoxycarbonylamino-3-hydroxy-5-phenyl-pentanoic acid ethyl ester (77 g, 66%).

reactant | 4-tert-butoxycarbonylamino-3-oxo-5-phenyl-pentanoic acid ethyl ester | 0.343 mol, 115 g | C(C)OC(CC(C(CC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O)=O | C18H25NO5
reactant | sodium borohydride | 0,117 mol, 4.43 g | [BH4-].[Na+]
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | 4-tert-butoxycarbonylamino-3-hydroxy-5-phenyl-pentanoic acid ethyl ester | 77 g, 66% | C(C)OC(CC(C(CC1=CC=CC=C1)NC(=O)OC(C)(C)C)O)=O | C18H27NO5
